US07935815B2
Synthesis of N-[2-oxo-3-(2-trifluoromethylphenyl)piperidin-1-yl]-3-p-tolylsulfanylpropionamide
EDC (9.01 g), HOBT (6.34 g) and IPEA (21.8 ml) were added to a solution of 1-amino-3-(2-trifluoromethylphenyl)piperidin-2-one (8.08 g) and 3-[(4-methylphenyl)thio]propionic acid (7.37 g) in DMF (80 ml) under cooling in an ice water bath. The reaction solution was stirred at room temperature for four hours. Ethyl acetate and a sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (13.51 g). The property values of the compound are as follows.

reactant | HOBT | 6.34 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 21.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-amino-3-(2-trifluoromethylphenyl)piperidin-2-one | 8.08 g | NN1C(C(CCC1)C1=C(C=CC=C1)C(F)(F)F)=O | C12H13F3N2O
reactant | 3-[(4-methylphenyl)thio]propionic acid | 7.37 g | CC1=CC=C(C=C1)SCCC(=O)O | C10H12O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 9.01 g
product | N-[2-oxo-3-(2-trifluoromethylphenyl)piperidin-1-yl]-3-p-tolylsulfanylpropionamide | 13.51 g | O=C1N(CCCC1C1=C(C=CC=C1)C(F)(F)F)NC(CCSC1=CC=C(C=C1)C)=O | C22H23F3N2O2S
